datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:30]>>[C:0]([C:1]([C:2]([C:3]([C:4]1[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:19][H:30],11.100152
[H:3].[S:0]=[C:1]=[S:2]>>[S:0][C:1](=[S:2])[H:3],29.1625
[O:0][O:1][H:2].[c:3]1[c:4]([H:9])[c:5]([H:10])[c:6]([H:11])[c:7]([H:12])[c:8]1[H:13]>>[H:2][c:3]1[c:4]([H:9])[c:5]([H:10])[c:6]([H:11])[c:7]([H:12])[c:8]1[H:13].[O:0][O:1],0.0
[C:0]([C:1]([O:2][H:8])([H:6])[H:7])([H:3])([H:4])[H:5].[C:9]([H:10])([H:11])[H:12]>>[C:0]([C:1]([O:2][H:8])([H:6])[H:7])([H:4])[H:5].[H:3][C:9]([H:10])([H:11])[H:12],32.287928
[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])=[C:4]([C:5]([H:18])([H:19])[H:20])[c:6]1[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]1[H:25])[H:14])([H:12])[H:13].[C:26](=[C:27]([C:28]([C:29]([H:35])([H:36])[H:37])[C:30](=[C:31]([H:39])[H:40])[H:38])[H:34])([H:32])[H:33]>>[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])([C:4]([C:5]([H:18])([H:19])[H:20])[c:6]1[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]1[H:25])[C:28]([C:27](=[C:26]([H:32])[H:33])[H:34])([C:29]([H:35])([H:36])[H:37])[C:30](=[C:31]([H:39])[H:40])[H:38])[H:14])([H:12])[H:13],72.2577
[H:0].[c:1]1[c:2]([H:21])[c:3]2[c:4]([H:22])[c:5]3[c:6]([H:23])[c:7]([H:24])[c:8]([H:25])[c:9]([H:26])[c:10]3[c:11]3[c:12]([H:27])[c:13]([H:28])[c:14]4[c:15]([H:29])[c:16]([H:30])[c:17]([H:31])[c:18]1[c:19]4[c:20]23>>[H:0][c:1]1[c:2]([H:21])[c:3]2[c:4]([H:22])[c:5]3[c:6]([H:23])[c:7]([H:24])[c:8]([H:25])[c:9]([H:26])[c:10]3[c:11]3[c:12]([H:27])[c:13]([H:28])[c:14]4[c:15]([H:29])[c:16]([H:30])[c:17]([H:31])[c:18]1[c:19]4[c:20]23,0.0
[C:1](=[C:2]([C:3]([c:4]1[c:6][c:7]([H:8])[c:9]([H:10])[c:11]([H:12])[c:13]1[H:15])([H:16])[H:17])[H:18])([H:19])[H:20]>>[C:1]([C:2]1([H:18])[C:3]([H:16])([H:17])[c:4]2[c:6]([H:15])[c:7]([H:8])[c:9]([H:10])[c:11]([H:12])[c:13]21)([H:19])[H:20],60.83536
[C:0]([C:1]([O:2][H:11])([C:3]([C:4]([H:13])([H:14])[H:15])([C:5](=[O:6])[H:16])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:0](=[C:1]([O:2][H:11])[H:10])([H:8])[H:9].[C:3]([C:4]([H:13])([H:14])[H:15])(=[C:5]([O:6][H:7])[H:16])[H:12],232.901
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:20])([H:21])[H:22])=[C:8]([C:9]([H:24])([H:25])[H:26])[H:23])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[H:13])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([C:7]([H:20])([H:21])[H:22])[C:8]1([C:9]([H:24])([H:25])[H:26])[H:23])[H:12])([H:10])[H:11],67.5298
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8])[H:7])([H:5])[H:6].[C:15]([C:16]([C:17]([H:22])([H:23])[H:24])[S:18][H:25])([H:19])([H:20])[H:21]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])[H:7])([H:5])[H:6].[H:8][C:16]([C:15]([H:19])([H:20])[H:21])([C:17]([H:22])([H:23])[H:24])[S:18][H:25],0.8368
[C:0]1([H:9])=[C:1]([H:10])[C:2]2=[C:3]([H:11])[C:4]([H:12])=[C:5]([H:13])[C:6]2([H:14])[C:7]([H:15])=[C:8]1[H:16].[C:17]([H:18])([H:19])[H:20]>>[C:0]1([H:9])=[C:1]([H:10])[C:2]2=[C:3]([H:11])[C:4]([H:12])=[C:5]([H:13])[C:6]2([H:14])[C:7]([H:15])([C:17]([H:18])([H:19])[H:20])[C:8]1[H:16],-3.7656
[C:0]([C:1](=[O:2])[O:3][O:4])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([H:16])([H:17])[H:18])([C:11]([H:19])([H:20])[H:21])[H:15])([H:12])([H:13])[H:14]>>[C:0]([C:1](=[O:2])[O:3][O:4][H:15])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([H:16])([H:17])[H:18])[C:11]([H:19])([H:20])[H:21])([H:12])([H:13])[H:14],66.944
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[C:7]([C:8]([H:11])([H:12])[H:13])([H:9])[H:10]>>[C:0](=[C:1]([S:2])[H:5])([H:3])[H:4].[H:6][C:7]([C:8]([H:11])([H:12])[H:13])([H:9])[H:10],-6.6944
[C:0]([N:1]([H:4])[H:5])([H:2])[H:3].[O:6][O:7]>>[C:0](=[N:1][H:5])([H:2])[H:3].[H:4][O:6][O:7],28.267104
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8]([C:9](=[C:10]([H:14])[H:15])[H:13])([H:11])[H:12]>>[C:0](#[C:1][C:2]=[C:3]([H:6])[H:7])[H:4].[H:5][C:8]([C:9](=[C:10]([H:14])[H:15])[H:13])([H:11])[H:12],116.901
[C:0]([C:1]([C:2]([c:3]1[c:4]([H:15])[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]1[H:19])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10]>>[C:0](=[C:1]([C:2]([c:3]1[c:4]([H:15])[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]1[H:19])([H:13])[H:14])[H:12])([H:9])[H:10].[H:11],147.092704
[C:0]([H:1])[H:2].[O:3][H:4]>>[C:0][H:2].[H:1][O:3][H:4],12.552
[C:0]([C:1]=[S:2])([H:3])([H:4])[H:5].[S:6]([H:7])[H:8]>>[C:0]([C:1](=[S:2])[H:7])([H:3])([H:4])[H:5].[S:6][H:8],-0.8368
